US06046201
BocNH(CH2)12OMs
To a solution of 8.96 g of tert-butyl N-(12-hydroxydodecyl)carbamate in 60 ml of tetrahydrofuran were successively added dropwise under ice-cooling 2.1 ml of mesyl chloride and 3.8 ml of triethylamine and the mixture was stirred for one hour. To the reaction solution was added ethyl acetate and the mixture was washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate, water and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure to afford 8.06 g of the title compound.

reactant | tert-butyl N-(12-hydroxydodecyl)carbamate | 8.96 g | OCCCCCCCCCCCCNC(OC(C)(C)C)=O | C17H35NO3
reactant | mesyl chloride | 2.1 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | BocNH(CH2)12OMs | 8.06 g | C(=O)(OC(C)(C)C)NCCCCCCCCCCCCOS(=O)(=O)C | C18H37NO5S
